US05378689
(2R, 4S, 5S)-5-(t-Butoxycarbonyl)amino-6-cyclohexyl-4-hydroxy-2-methyl-N-propylhexanamide
A solution of 293 mg (0.9 mmole) of (3R, 5S)-5-[(1S)-1-(t-butoxycarbonyl)amino-2-cyclohexylethyl]-3-methyldihydrofuran-2(3H)-one (prepared as described in Preparation 2) in 3 ml of methanol was mixed with 3 ml of propylamine, whilst ice-cooling, and the mixture was allowed to stand overnight at room temperature. At the end of this time, the reaction mixture was concentrated by distillation under reduced pressure, and the residue was triturated with hexane to afford 315 mg of the title compound as white crystals, melting at 115°-116° C.

reactant | (3R, 5S)-5-[(1S)-1-(t-butoxycarbonyl)amino-2-cyclohexylethyl]-3-methyldihydrofuran-2(3H)-one | 0.9 mmole, 293 mg | C(C)(C)(C)OC(=O)N[C@@H](CC1CCCCC1)[C@@H]1C[C@H](C(O1)=O)C | C18H31NO4
reactant | propylamine | 3 ml | C(CC)N | C3H9N
solvent | methanol | 3 ml | CO | CH4O
product | (2R, 4S, 5S)-5-(t-Butoxycarbonyl)amino-6-cyclohexyl-4-hydroxy-2-methyl-N-propylhexanamide | 315 mg | C(C)(C)(C)OC(=O)N[C@H]([C@H](C[C@H](C(=O)NCCC)C)O)CC1CCCCC1 | C21H40N2O4
